US07816522B2
(216b) 2-[2-(3-Dimethoxymethyl-2-fluoro-5-methoxybenzyloxy]ethoxy]tetrahydropyran
(3-Dimethoxymethyl-2-fluoro-5-methoxyphenyl)methanol (1.861 g) was dissolved in 10 ml of DMF, and 390 mg of sodium hydride, 300 mg of tetrabutylammonium iodide, and 1.8 ml of 2-(2-bromoethoxy)tetrahydropyran were added thereto. The mixture was stirred at room temperature for 2 hours, and then water was added thereto. The mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate. The desiccating agent was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (heptane-ethyl acetate) to give the title compound (1.035 g).

reactant | (3-Dimethoxymethyl-2-fluoro-5-methoxyphenyl)methanol | 1.861 g | COC(C=1C(=C(C=C(C1)OC)CO)F)OC | C11H15FO4
reactant | sodium hydride | 390 mg | [H-].[Na+]
reactant | 2-(2-bromoethoxy)tetrahydropyran | 1.8 ml | BrCCOC1OCCCC1 | C7H13BrO2
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium iodide | 300 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-[2-(3-Dimethoxymethyl-2-fluoro-5-methoxybenzyloxy]ethoxy]tetrahydropyran | 1.035 g | COC(C=1C(=C(COCCOC2OCCCC2)C=C(C1)OC)F)OC | C18H27FO6
